US07915250B2
N-butyl-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-amine
To a solution of 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-amine (0.09 M in acetonitrile, 500 μL, 0.045 mmol), prepared using procedures similar to those described in Example 2, was added triethylamine (20 μL, 0.135 mmol) and n-butylbromide (6.14 μL, 0.054 mmol) followed by additional acetonitrile (1.0 mL). The reaction mixture was stirred at room temperature for 16 h, at which time it was purified directly by reverse phase HPLC to afford the title compound (8.4 mg). 1H NMR (400 MHz, CDCl3): 8.50 (s, 1H), 7.39 (dd, 1H), 7.32 (dd, 1H), 7.13-7.09 (m, 1H), 6.84-6.77 (m, 1H), 6.63-6.57 (m, 1H), 4.35 (br s, 2H), 4.00 (br s, 1H), 3.87 (br s, 1H), 3.74-3.68 (m, 1H), 3.20 (br s, 3.5H), 2.56 (t, 2H), 2.03 (s, 2H), 1.50-1.42 (m, 2H), 1.39-1.29 (m, 2H), 0.91 (t, 3H). MS (EI) for C20H21F3IN3O: 504 (MH+).

reactant | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-amine | 0.045 mmol, 0.09 M, 500 μL | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)N)NC1=C(C=C(C=C1)I)F | C16H13F3IN3O
reactant | triethylamine | 0.135 mmol, 20 μL | C(C)N(CC)CC | C6H15N
reactant | n-butylbromide | 0.054 mmol, 6.14 μL | C(CCC)Br | C4H9Br
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | N-butyl-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-amine | 8.4 mg | C(CCC)NC1CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C20H21F3IN3O
